US07018559B2
B. Synthesis of 3-decyloxymethylcyclohexene
A 500 mL round bottom flask equipped with a mechanical stirrer was charged with 23.7g (0.15 mol) decyl alcohol, and 150 mL of DMSO. Sodium hydride (4.22 g, 95% in purity; 0.167 mol) was slowly added to above mixture in an ice bath over 20 min. After the above mixture was reacted at room temperature for 3 hrs, the reaction mixture was cooled to room temperature. 3-Cyclohexene-1-methanol tosylate (39.9 g, 0.15 mol) was slowly added to the above mixture over 20 min. The reaction was carried at room temperature overnight, then 80° C. for 3 hrs. The reaction mixture was added to water (150 mL), and then extracted with chloroform (3×150 niL), washed to water (2×100 mL) and dried with sodium sulfate. The solvent was evaporated and the residue distilled to give pure product.

reactant | decyl alcohol | 0.15 mol, 23.7g | C(CCCCCCCCC)O | C10H22O
reactant | DMSO | 150 mL | CS(=O)C | C2H6OS
reactant | Sodium hydride | 4.22 g | [H-].[Na+]
reactant | 3-Cyclohexene-1-methanol tosylate | 0.15 mol, 39.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1CC=CCC1 | C14H18O3S
solvent | water | 150 mL | O | H2O
product | 3-decyloxymethylcyclohexene | C(CCCCCCCCC)OCC1C=CCCC1 | C17H32O
